US07192975B2
13.1) 2-(2-cyclohexylethyl)-4-(3-nitrophenyl)-1H-imidazole
This compound is prepared according to an operating method analogous to that described for Stage 4.1 of Example 4, with cyclohexylethylcarboxylic acid and 3-nitrophenacyl bromide placing N-(tert-butoxycarbonyl)-glycine and 4-azidophenacyl bromide respectively. The expected compound is obtained in the form of a yellow powder with a yield of 26%.

reactant | cyclohexylethylcarboxylic acid | C1(CCCCC1)CCC(=O)O | C9H16O2
reactant | 3-nitrophenacyl bromide | [N+](=O)([O-])C=1C=C(C(CBr)=O)C=CC1 | C8H6BrNO3
reactant | N-(tert-butoxycarbonyl)-glycine | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 4-azidophenacyl bromide | N(=[N+]=[N-])C1=CC=C(C(CBr)=O)C=C1 | C8H6BrN3O
product | 2-(2-cyclohexylethyl)-4-(3-nitrophenyl)-1H-imidazole | yield of 26% | C1(CCCCC1)CCC=1NC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C17H21N3O2
